US08491869B2
2-(1H-indol-5-yl)quinoline was prepared using general procedure A from 2-chloroquinoline (32 mg, 0.2 mmol) and 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (51 mg, 0.2 mmol). The product was obtained as off-white solid (22 mg, 42%). MS (ESI): 245 (M+H+).

reactant | 2-chloroquinoline | 0.2 mmol, 32 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.2 mmol, 51 mg | CN1C=CC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
product | 2-(1H-indol-5-yl)quinoline | N1C=CC2=CC(=CC=C12)C1=NC2=CC=CC=C2C=C1 | C17H12N2
